US05360791
b) 2-(6-Cyclohexyl-3-hydroxy-4-hexinyl)pyridine
2 equivalents of a solution of n-butyllithium in hexane (1.4 M) are added at -78° C. to a solution of 0.1 mol of 1,1-dibromo-3-cyclohexyl-1-propene in THF. After warming to room temperature, the mixture is stirred for a further hour, then cooled to -78° C. and a solution of 0.]mol of 2-(2-pyridyl)propionaldehyde (prepared according to J. Pract. Chem. 19, 226 (1963)) is added. After warming to room temperature again, the mixture is poured onto ice and extracted with MTB. After drying, concentrating and chromatography on silica gel (EE/cyclohexane (1:1)) 20.4 g of the title compound are obtained as an oil.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,1-dibromo-3-cyclohexyl-1-propene | 0.1 mol | BrC(=CCC1CCCCC1)Br | C9H14Br2
reactant | 2-(2-pyridyl)propionaldehyde | N1=C(C=CC=C1)C(C=O)C | C8H9NO
reactant | THF | C1CCOC1 | C4H8O
solvent | hexane | 1.4 M | CCCCCC | C6H14
product | 2-(6-Cyclohexyl-3-hydroxy-4-hexinyl)pyridine | C1(CCCCC1)CC#CC(CCC1=NC=CC=C1)O | C17H23NO
